**** Test netlist for  Foster N Port Model *****
*
* Three parallel coupled lines considered.
*
* Details described in Chapter 4 of master's thesis by Ramya Mohan:
* Integration of Interconnect Models in a Circuit Simulator, Master's Thesis,
* North Carolina State University, 2002.
* Available:
*  http://people.engr.ncsu.edu/mbs/Publications/vitae_theses/mohan_ms_2002.pdf
 
*.options f0 = 5.1e3 jupdm=4 output=0 nonlin=4
*.svhb n_freqs = 5 fundamental = f0  steps=5 deriv=0
.tran2 tstop=8n tstep=.009n out_steps=100

*.tran2 tstop=16n tstep=.005n out_steps=100 

*.ac start=.0001 stop=4e9 n_freqs=500

*.ac start=100 stop=4e9 n_freqs=400

r:rvin 11 1 r=5.

r:r2 2 0 r=5.
r:r3 3 0 r=5.
r:r4 4 0 r=5.
r:r5 5 0 r=5.
r:r6 6 0 r=5.

*vsource:vin 1 0 vac = 1v 
vpulse:vin 11 0 v1=0 v2=1 td=.1n tr=.5n tf=.5n pw=100n per=250n

*vpulse:vin 11 0 v1=0 v2=1 td=.1n tr=.5n tf=.5n pw=4n per=4n

FosterNPort:f1 1 2 3 4 5 6 0 filename = "three_line_fosternport.yp"
+ ports = 6 poles = 36



open:o1 1 0 

.options gnuplot

.out plot term 1 vt in "v1.out"
.out plot term 2 vt in "v2.out"
.out plot term 3 vt in "v3.out"
.out plot term 4 vt in "v4.out"
.out plot term 5 vt in "v5.out"
.out plot term 6 vt in "v6.out"

*.out plot term 2 vf mag in "v2.out"
*.out plot term 6 vf mag in "v6.out"
*.out plot term 1 vf mag in "input.out"

*.out plot element "vsource:vin" 0 if mag in "axxout.i"
*.out plot term 0 vf term 2 vf sub mag in "out1.i"

*.out plot term 2 vf mag  in "v11.out"
*.out plot term 1 vf mag in "in.v"

*.out plot term 1 vf term 6 vf sub mag in "mag.r"

.end
